US09056859B2
To a solution of tert-butyl 4-{[7-(methoxycarbonyl)-2,3-dihydro-1-benzofuran-3-yl]methyl}piperazine-1-carboxylate (250 mg, 0.66 mmol) in 20 mL of MeOH/THF/H2O (2/2/1) was added LiOH.H2O (139 mg, 3.32 mmol), and the mixture was stirred at ambient temperature overnight. The solvents were removed under vacuum, and the residue was added 30 mL of water and extracted with ether. The aqueous layer was then acidified with 4 N HCl to pH=7 in ice bath, and extracted with EtOAc. The combined organic phase was washed with brine, dried over anhydrous sodium sulfate and concentrated. The residue was re-crystallized from DCM to give 3-{[4-(tert-butoxycarbonyl)piperazin-1-yl]methyl}-2,3-dihydro-1-benzofuran-7-carboxylic acid.

reactant | tert-butyl 4-{[7-(methoxycarbonyl)-2,3-dihydro-1-benzofuran-3-yl]methyl}piperazine-1-carboxylate | 0.66 mmol, 250 mg | COC(=O)C1=CC=CC=2C(COC21)CN2CCN(CC2)C(=O)OC(C)(C)C | C20H28N2O5
reactant | LiOH.H2O | 3.32 mmol, 139 mg | O[Li].O
solvent | MeOH THF H2O | 20 mL | CO.C1CCOC1.O
product | 3-{[4-(tert-butoxycarbonyl)piperazin-1-yl]methyl}-2,3-dihydro-1-benzofuran-7-carboxylic acid | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1COC2=C1C=CC=C2C(=O)O | C19H26N2O5
